US04010184
To a solution of 8.7 g of 1-chlorocarbonyl-5-o-chlorophenyl-7-ethyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine and 2.8 g of triethylamine in 50 ml of tetrahydrofuran is added dropwise 50 ml of 25%(W/V) tetrahydrofuran solution of dimethylamine with stirring. The whole mixture is refluxed with stirring for 2 hours, and then cooled and transferred to water. The resultant solution is extracted with ethyl acetate, washed with water and dried over anhydrous magnesium sulfate. The solvent is evaporated under reduced pressure. The residue is treated with ethanolic hydrogen chloride to give 5-o-chlorophenyl-7-ethyl-1-dimethylcarbamoyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine hydrochloride as yellow crystals. This product, when recrystallized from a mixture of methanol and ethyl acetate, melts at 240°-241° C with decomposition.

reactant | 1-chlorocarbonyl-5-o-chlorophenyl-7-ethyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine | 8.7 g | ClC(=O)N1CCN=C(C2=C1SC(=C2)CC)C2=C(C=CC=C2)Cl | C16H14Cl2N2OS
reactant | triethylamine | 2.8 g | C(C)N(CC)CC | C6H15N
reactant | dimethylamine | CNC | C2H7N
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-o-chlorophenyl-7-ethyl-1-dimethylcarbamoyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine hydrochloride | Cl.ClC1=C(C=CC=C1)C=1C2=C(N(CCN1)C(N(C)C)=O)SC(=C2)CC | InChI=1S/C18H20ClN3OS.ClH/c1-4-12-11-14-16(13-7-5-6-8-15(13)19)20-9-10-22(17(14)24-12)18(23)21(2)3;/h5-8,11H,4,9-10H2,1-3H3;1H
